US07700599B2
6-[(4-Fluorophenyl)oxy]-3-pyridinecarboxylic acid (D14)
Ethyl 6-[(4-fluorophenyl)oxy]-3-pyridinecarboxylate (D13) (0.275 g, 1.054 mmol) was taken up in 1,4-dioxane (5 mL) and lithium hydroxide (0.050 g, 2.109 mmol) was dissolved in water. The two solutions were combined and stirred at room temperature for 2 h. The mixture was acidified to pH 5 with 2M HCl and concentrated. The residue was taken up in ethyl acetate, dried and concentrated to yield the title compound as a cream/white solid (0.233 g). δH (DMSO-d6, 400 MHz) 13.20 (1H, bs), 8.65 (1H, dd), 8.28 (1H, dd), 7.26 (4H, m), 7.12 (1H, d). MS (ES): MH+ 234.2, (M-H+) 232.1.

reactant | Ethyl 6-[(4-fluorophenyl)oxy]-3-pyridinecarboxylate | 1.054 mmol, 0.275 g | FC1=CC=C(C=C1)OC1=CC=C(C=N1)C(=O)OCC | C14H12FNO3
reactant | lithium hydroxide | 2.109 mmol, 0.050 g | [OH-].[Li+]
reactant | HCl | 2M | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 6-[(4-Fluorophenyl)oxy]-3-pyridinecarboxylic acid | 0.233 g | FC1=CC=C(C=C1)OC1=CC=C(C=N1)C(=O)O | C12H8FNO3
